US05952351
A mixture of the above ketal (3.2 gm, 15 mmol) and sodium saccharin (3.1 gm, 14 mmol) in dimethylformamide (15 mL) was heated at 170° C. for 5 hours. The cooled reaction mixture was poured into water and the crude product extracted into ethyl acetate. The dried extract was evaporated and the crude product was chromotographed on a column of silica gel eluting with a gradient of 20-40% EtOAc/hexane to give crystalline 1,1-dioxido-2-(4-oxo-pentyl)-1,2-benzisothiazol-3(2H)-one, melting point 90-93° C.

reactant | sodium saccharin | 14 mmol, 3.1 gm | S1(=O)(=O)NC(=O)C2=CC=CC=C12.[Na]
reactant | water | O | H2O
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 1,1-dioxido-2-(4-oxo-pentyl)-1,2-benzisothiazol-3(2H)-one | O=S1(N(C(C2=C1C=CC=C2)=O)CCCC(C)=O)=O | C12H13NO4S
